US08609656B2
Preparation of 1-[4-(6-(methylamino)purin-9-yl)phenyl]-3-[3-(4-methylpiperazin-1-ylmethyl)-5-(trifluoromethyl)phenyl]urea (Table 2, compound No. 25)
In 2 mL of dichloromethane, 608 mg (2.12 mmol) of 3-(methylpiperazin-1-ylmethyl)-5-(trifluoromethyl)aniline was dissolved, and 380 mg (2.34 mmol) of 1,1′-carbonylbis-1H-imidazole was added there to under cooling with ice, and the mixture solution was stirred at room temperature for three hours. To the reaction solution, 520 mg (2.16 mmol) of [9-(4-aminophenyl)-9H-purin-6-yl]-methylamine and 4 ml of dimethylformamide were added, and the mixture solution was further stirred at 40° C. for four hours. The residue obtained by concentrating the reaction solution was partitioned between water and ethyl acetate, and the organic layer was washed with a saturated sodium chloride solution and concentrated under reduced pressure. The product was recrystallized from ethyl acetate to obtain 742 mg (62%) of a target product as a white crystal.

reactant | 3-(methylpiperazin-1-ylmethyl)-5-(trifluoromethyl)aniline | 2.12 mmol, 608 mg | CC(C=1C=C(N)C=C(C1)C(F)(F)F)N1CCNCC1 | C13H18F3N3
reactant | 1,1′-carbonylbis-1H-imidazole | 2.34 mmol, 380 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | [9-(4-aminophenyl)-9H-purin-6-yl]-methylamine | 2.16 mmol, 520 mg | NC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1)NC | C12H12N6
reactant | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 1-[4-(6-(methylamino)purin-9-yl)phenyl]-3-[3-(4-methylpiperazin-1-ylmethyl)-5-(trifluoromethyl)phenyl]urea | 742 mg, 62% | CNC1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=CC(=C1)C(F)(F)F)CN1CCN(CC1)C | C26H28F3N9O
